US07485283B2
Synthesis of [1-(2,2-dimethyl-chroman-6-yl)-2-(3,4,5-trimethoxy-phenyl)-ethanone
A solution of osmium tetroxide (25% wt., 0.574 mL) and NMO (13.24 mg, 0.113 mmol) dissolved in water (0.27 mL) and acetone (0.48 mL) were cooled to −5° C. [1-(2,2-dimethyl-chroman-6-yl)-2-(3,4,5-trimethoxy-phenyl)-vinyloxy]-trimethyl-silane (50 mg, 0.113 mmol) dissolved in acetone (0.2 mL) was added dropwise to the cooled stirring solution. After completion of addition the reaction continued to stir at 0° C. After 3 h, the reaction was quenched with sodium hydrosulfite and florisil. The reaction mixture was filtered and the filtrate was concentrated. The crude material was purified using silica gel chromatography (4:1 pentane: ethyl acetate to 1:1 pentane ethyl acetate) to afford the desired compound (4.3 mg, 8%).

reactant | NMO | 0.113 mmol, 13.24 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | [1-(2,2-dimethyl-chroman-6-yl)-2-(3,4,5-trimethoxy-phenyl)-vinyloxy]-trimethyl-silane | 0.113 mmol, 50 mg | CC1(OC2=CC=C(C=C2CC1)C(=CC1=CC(=C(C(=C1)OC)OC)OC)O[Si](C)(C)C)C | C25H34O5Si
solvent | water | 0.27 mL | O | H2O
solvent | acetone | 0.2 mL | CC(=O)C | C3H6O
catalyst | osmium tetroxide | 0.574 mL | [Os](=O)(=O)(=O)=O
solvent | acetone | 0.48 mL | CC(=O)C | C3H6O
product | 1-(2,2-dimethyl-chroman-6-yl)-2-(3,4,5-trimethoxy-phenyl)-ethanone | 4.3 mg, 8% | CC1(OC2=CC=C(C=C2CC1)C(CC1=CC(=C(C(=C1)OC)OC)OC)=O)C | C22H26O5
